US04296239
8-Chloro-1-methyl-6-pyrrolidino-4H-s-triazolo[4,3-a][1,4]benzodiazepine (Ic)
A stirred mixture of 8-chloro-4,5-dihydro-1-methyl-6H-s-triazolo[4,3-a][1,4]benzodiazepine-6-thione (VIIIa)(2.65 g., 0.01 mole) and pyrrolidine (25 ml.) was refluxed under nitrogen for 10 hours, cooled, mixed with water and extracted with methylene chloride. The extract was washed with water, dried (Na2SO4) and concentrated in vacuo. The residue was dissolved in methylene chloride/ethyl acetate, decolorized with charcoal (Darco) and concentrated until the product crystallized. The product was recrystallized from methylene chloride/acetate to give 1.43 g., melting point 223°-225° and 0.10 g., melting point 222°-225° of the titled compound (Ic)(51% yield). The analytical sample had: melting point 223°-225°; uv (EtOH) λ max 210.5 mμ (ε 41,050), 233 (sh 17,700), 287 (sh, 3450), 292 (3550). The ir and nmr spectra support the proposed structure.

reactant | 8-chloro-4,5-dihydro-1-methyl-6H-s-triazolo[4,3-a][1,4]benzodiazepine-6-thione | 0.01 mole, 2.65 g | ClC=1C=CC2=C(C(NCC=3N2C(=NN3)C)=S)C1 | C11H9ClN4S
reactant | pyrrolidine | 25 ml | N1CCCC1 | C4H9N
solvent | water | O | H2O
product | 8-Chloro-1-methyl-6-pyrrolidino-4H-s-triazolo[4,3-a][1,4]benzodiazepine | 51% yield | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)C)N3CCCC3)C1 | C15H16ClN5
